US07307084B2
AW. N-(6-Dimethylaminomethyl-7-hydroxy-2,3-dimethyl-3H-benzimidazol-5yl)-N-methyl-acetamide
A suspension of 4.7 g (18.9 mmol) N-(7-benzyloxy-2,3-dimethy-3H-benzimidazol-5-yl)-N-methyl-acetamide in dry dichloromethane (200 ml) was treated with 4.5 g (24.6 mmol) N,N-dimethylmethylenimmonium iodide and the reaction was stirred overnight at room temperature. The reaction mixture was poured into water, neutralized with sat. sodium bicarbonate solution and extracted with dichloromethane (2×20 ml). The organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue afforded 2.2 g (41%) of the title compound as a white solid. m.p. 181°-184° C.

reactant | N-(7-benzyloxy-2,3-dimethy-3H-benzimidazol-5-yl)-N-methyl-acetamide | 18.9 mmol, 4.7 g | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N=C(N2C)C)N(C(C)=O)C | C19H21N3O2
reactant | iodide | [I-]
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(6-Dimethylaminomethyl-7-hydroxy-2,3-dimethyl-3H-benzimidazol-5yl)-N-methyl-acetamide | 2.2 g, 41% | CN(C)CC=1C(=CC2=C(N=C(N2C)C)C1O)N(C(C)=O)C | C15H22N4O2
